### ISSUE TITLE
[eSHP]: Table 9 completeness test

### ISSUE THREAD

**Issue by teorth** [AlexKontorovich/PrimeNumberTheoremAnd#950]
## Description

This should be an easy check.

## Blueprint

[Proposition 10.11.8](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/secondary-chapter.html#table-9-prime-gap-complete-test)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/New.20miniproject.3A.20Primes.20in.20short.20intervals)

**Comment by pitmonticone** [comment]
@Aristotle-Harmonic disproved `table_9_prime_gap_complete_test ` as follows: 

```lean
theorem table_9_prime_gap_complete_test (g P : ℕ) (hg : g < 8) (hrecord : first_gap_record g P) : (g, P) ∈ table_9 := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state;
  -- Proof starts here:
  -- Let's choose $g = 0$ and $P = 0$.
  use 0, 0;
  -- By definition of `first_gap_record`, we need to show that `first_gap 0 = 0` and for all `g' ∈ Finset.Ico 1 0`, `Even g' ∨ g' = 1 → first_gap g' ∈ Set.Ico 1 0`.
  simp [first_gap_record, first_gap];
  -- By definition of `nth_prime_gap`, we know that `nth_prime_gap x = 0` implies `nth_prime (x + 1) = nth_prime x`.
  have h_gap_zero : ∀ x, nth_prime_gap x = 0 → False := by
    -- Since primes are strictly increasing, the difference between consecutive primes is always at least 1. Therefore, the gap can't be zero.
    have h_prime_gap_pos : ∀ x, 0 < nth_prime_gap x := by
      intro n;
      exact Nat.sub_pos_of_lt ( Nat.nth_strictMono ( Nat.infinite_setOf_prime ) ( Nat.lt_succ_self _ ) );
    exact fun x hx => ne_of_gt ( h_prime_gap_pos x ) hx;
  exact ⟨ fun x hx => False.elim <| h_gap_zero x hx, by native_decide ⟩
```

**Comment by pitmonticone** [comment]
propose #982
